US03994918
A mixture of 10.0 g. of 10,11-dihydro-spiro[dibenzo[a,d] cycloheptene-5,2'-oxirane] and 100 ml. of anhydrous hydrazine is refluxed for 3 hours, the resulting mixture evaporated in vacuo to dryness, the residue dissolved in methanol and again evaporated in vacuo to dryness. The residue is crystallized from diethyl ether to obtain 5-hydrazinomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclo-hepten-5-ol, m.p. 95°-105° C. (decomp.). It was observed that this product decomposed slowly at room temperature to form dibenzo[a,d]cyclohepten-5-one and thus must be stored at reduced temperatures if to be preserved in relatively pure form for any substantial period of time.

reactant | 10,11-dihydro-spiro[dibenzo[a,d] cycloheptene-5,2'-oxirane] | O1C2(C1)C1=C(CCC3=C2C=CC=C3)C=CC=C1 | C16H14O
reactant | hydrazine | NN | H4N2
product | 5-hydrazinomethyl-10,11-dihydro-5H-dibenzo[a,d]cyclo-hepten-5-ol | N(N)CC1(C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C16H18N2O
